US08685969B2
A mixture of ethyl 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylate (1.36 g, 2.38 mmol) and lithium hydroxide, monohydrate (0.399 g, 9.50 mmol) in tetrahydrofuran (30 mL), methanol (10 mL), and water (12 mL) was stirred at room temperature for 4 h. The solvent was removed under reduced pressure, and the residue was suspended in water (˜20 mL) and 1N aqueous hydrochloric acid (9.5 mL). The pH was adjusted to 5 with 1N aqueous sodium hydroxide, and the suspension was stirred for 60 min. The solid was collected by vacuum filtration, washed with water, and dried overnight to give 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylic acid (1.10 g, 2.02 mmol, 85% yield) as a yellow solid. LC/MS M+1=544.3 and 546.3.

reactant | ethyl 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylate | 2.38 mmol, 1.36 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=C(N=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)OCC)C)C | C30H26BrN3O4
reactant | lithium hydroxide, monohydrate | 9.50 mmol, 0.399 g | O.[OH-].[Li+]
reactant | water | 12 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylic acid | 2.02 mmol, 1.10 g, 85% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=C(N=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)O)C)C | C28H22BrN3O4
